US05434150
2-(4-Amidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-[3-(S-oxido-thiomorpholino)-propyl]-benzimidazole-hydrochloride
2.2 g of 2-(4-amidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-(3-thiomorpholino-propyl)-benzimidazole-hydrochloride are dissolved in 45 ml of glacial acetic acid and a solution of 0.39 ml of 30% hydrogen peroxide in 5 ml of glacial acetate acid is added thereto whilst cooling with ice water. The mixture is stirred for 4 hours whilst cooling with ice and for 16 hours at ambient temperature, the solvent is evaporated off in vacuo and the residue is purified by column chromatography (silica gel; methylene chloride/methanol/water=1:1:0 to 1:1:0.1). Yield: 0.6 g (26% of theory), Rf value: 0.46 (silica gel; methylene chloride/methanol/conc. ammonia=1:1:0.1)

reactant | 2-(4-amidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-(3-thiomorpholino-propyl)-benzimidazole-hydrochloride | 2.2 g | Cl.C(N)(=N)C1=CC=C(C=C1)C1=NC2=C(N1CCCN1CCSCC1)C=CC(=C2)C(=O)NCCC(=O)OC
reactant | hydrogen peroxide | 0.39 ml | OO | H2O2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
solvent | acetate | 5 ml | C(C)(=O)[O-]
product | 2-(4-Amidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-[3-(S-oxido-thiomorpholino)-propyl]-benzimidazole-hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)C1=NC2=C(N1CCCN1CCS(CC1)=O)C=CC(=C2)C(=O)NCCC(=O)OC | InChI=1S/C26H32N6O4S.ClH/c1-36-23(33)9-10-29-26(34)20-7-8-22-21(17-20)30-25(19-5-3-18(4-6-19)24(27)28)32(22)12-2-11-31-13-15-37(35)16-14-31;/h3-8,17H,2,9-16H2,1H3,(H3,27,28)(H,29,34);1H
